US06288062B1
(d) 2-Methyl-4-phenyl-5-(4-pyridyl)oxazole
A mixture of 2-acetamido-2-phenyl-1-(4-pyridyl)ethanone (0.101 g, 0.397 mmol) in conc. H2SO4 (1 mL) was heated at 100° C. for 18 h. After cooling, the mixture was poured onto ice and neutralized with 2.5N NaOH. The aqueous mixture was extracted with CH2Cl2 and the combined organic extracts were washed with sat'd NaCl and dried over MgSO4. Evaporation of solvent gave an oil which was purified by flash chromatography, eluting with 0-2% MeOH/CHCl3. The title compound was obtained as a gold oil (3.0 mg): MS(DCI/NH3) (m/z): 237 (M++H).

reactant | 2-acetamido-2-phenyl-1-(4-pyridyl)ethanone | 0.397 mmol, 0.101 g | C(C)(=O)NC(C(=O)C1=CC=NC=C1)C1=CC=CC=C1 | C15H14N2O2
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
product | 2-Methyl-4-phenyl-5-(4-pyridyl)oxazole | CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=NC=C1 | C15H12N2O
